US05753595
Under a nitrogen atmosphere a solution of 1.7 grams (6.8 mmole) of 2,4-dichloro-7-nitrobenzothiazole in 150 mL of diethyl ether was stirred as 1.2 grams (13.7 mmole) of piperidine was added via syringe over a ten minute period. The reaction mixture, which had spontaneously warmed, was cooled with ice-water to ambient temperature, where it stirred for 40 minutes. The resulting precipitate was collected by filtration and washed with 50 mL of ethyl acetate. The filtrate was washed with aqueous 0.1N hydrochloric acid and two 50 mL portions of water. The organic layer was dried with sodium sulfate, filtered, and concentrated under reduced pressure, yielding a bright yellow-orange solid, which was combined with a material prepared by a similar route and purified by column chromatography on silica gel. Elution was accomplished with 7:1 followed by 5:1 hexane:ethyl acetate. The product-containing fractions were combined and concentrated under reduced pressure, yielding 1.3 grams of 2-(1-piperidinyl)-4-chloro-7-nitrobenzothiazole. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4-dichloro-7-nitrobenzothiazole | 6.8 mmole, 1.7 grams | ClC=1SC2=C(N1)C(=CC=C2[N+](=O)[O-])Cl | C7H2Cl2N2O2S
reactant | piperidine | 13.7 mmole, 1.2 grams | N1CCCCC1 | C5H11N
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 2-(1-piperidinyl)-4-chloro-7-nitrobenzothiazole | 1.3 grams | N1(CCCCC1)C=1SC2=C(N1)C(=CC=C2[N+](=O)[O-])Cl | C12H12ClN3O2S
